US04064250
A mixture of pyrogallol (25 parts), trimethyl orthoformate (32 parts) and 1,2-dichloroethane (250 parts) was heated with continuous distillation of the solvent for 4 hours. The volume of solvent was kept constant by simultaneous addition of dichloroethane. The mixture was then washed three times with water and dried over sodium sulphate. Removal of the solvent under reduced pressure and distillation of the residue gave 4-hydroxy-2-methoxy-1,3-benzodioxole, boiling point 104°-105° C/1 mmHg.

reactant | pyrogallol | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
reactant | trimethyl orthoformate | C(OC)(OC)OC | C4H10O3
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-hydroxy-2-methoxy-1,3-benzodioxole | OC1=CC=CC=2OC(OC21)OC | C8H8O4
